US08461185B2
Step C: N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-(5-methyl-2-pyridinyl)-5-vinylbenzamide
To a solution of tri-sodium chloride adduct of 3-(5-methyl-2-pyridinyl)-5-vinylbenzoic acid (2.5 g, 6.0 mmol) in N,N-dimethylformamide (20 mL) were added (1R)-1-(5-Fluoropyridin-2-yl)ethanamine hydrochloride (1.60 g, 7.5 mmol), EDC (2.02 g, 10.5 mmol), HOAT (0.25 g, 1.8 mmol) and triethylamine (3.36 mL, 24 mmol). The reaction mixture was stirred at ambient temperature for 18 h. Saturated aqueous sodium bicarbonate was added. The mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→100% ethyl acetate) gave the title compound (1.14 g). MS 362.1 (M+1).

reactant | tri-sodium chloride | [Cl-].[Na+].[Na+].[Na+].[Cl-].[Cl-]
reactant | 3-(5-methyl-2-pyridinyl)-5-vinylbenzoic acid | 6.0 mmol, 2.5 g | CC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C=C | C15H13NO2
reactant | (1R)-1-(5-Fluoropyridin-2-yl)ethanamine hydrochloride | 7.5 mmol, 1.60 g | Cl.FC=1C=CC(=NC1)[C@@H](C)N
reactant | EDC | 10.5 mmol, 2.02 g
reactant | HOAT | 1.8 mmol, 0.25 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | triethylamine | 24 mmol, 3.36 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-[(1R)-1-(5-fluoro-2-pyridinyl)ethyl]-3-(5-methyl-2-pyridinyl)-5-vinylbenzamide | 1.14 g | FC=1C=CC(=NC1)[C@@H](C)NC(C1=CC(=CC(=C1)C=C)C1=NC=C(C=C1)C)=O | C22H20FN3O
